Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[N:1]1[CH2:2][C@H:3]([CH3:4])[N:5]([CH:6]2[CH2:7][CH2:8][c:9]3[cH:10][cH:11][c:12]([C:13]([F:14])([F:15])[F:16])[cH:17][c:18]32)[CH2:19][CH2:20]1>>[NH:1]1[CH2:2][C@H:3]([CH3:4])[N:5]([CH:6]2[CH2:7][CH2:8][c:9]3[cH:10][cH:11][c:12]([C:13]([F:14])([F:15])[F:16])[cH:17][c:18]32)[CH2:19][CH2:20]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][C@H:3]([CH3:4])[N:5]([CH:6]2[CH2:7][CH2:8][c:9]3[cH:10][cH:11][c:12]([C:13]([F:14])([F:15])[F:16])[cH:17][c:18]32)[CH2:19][CH2:20]1.[H+:301]>>[NH:1]1[CH2:2][C@H:3]([CH3:4])[N:5]([CH:6]2[CH2:7][CH2:8][c:9]3[cH:10][cH:11][c:12]([C:13]([F:14])([F:15])[F:16])[cH:17][c:18]32)[CH2:19][CH2:20]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[n:2][cH:3][c:4]([C:5](=[O:6])[NH:7][c:8]2[cH:9][cH:10][c:11]([O:12][C:13]([F:14])([F:15])[F:16])[cH:17][cH:18]2)[cH:19][c:20]1[Br:21].[CH2:22]1[CH2:23][CH2:24][NH:25][CH2:26]1>>[c:1]1([N:25]2[CH2:24][CH2:23][CH2:22][CH2:26]2)[n:2][cH:3][c:4]([C:5](=[O:6])[NH:7][c:8]2[cH:9][cH:10][c:11]([O:12][C:13]([F:14])([F:15])[F:16])[cH:17][cH:18]2)[cH:19][c:20]1[Br:21],[Cl:101][c:1]1[n:2][cH:3][c:4]([C:5](=[O:6])[NH:7][c:8]2[cH:9][cH:10][c:11]([O:12][C:13]([F:14])([F:15])[F:16])[cH:17][cH:18]2)[cH:19][c:20]1[Br:21].[CH2:22]1[CH2:23][CH2:24][NH:25][CH2:26]1>>[c:1]1([N:25]2[CH2:24][CH2:23][CH2:22][CH2:26]2)[n:2][cH:3][c:4]([C:5](=[O:6])[NH:7][c:8]2[cH:9][cH:10][c:11]([O:12][C:13]([F:14])([F:15])[F:16])[cH:17][cH:18]2)[cH:19][c:20]1[Br:21],SNAr(para),"[(25, 1), ([1, 20], [20, 19]), ([19, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 19]), ([19, 20], [20, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][O:2][c:3]1[cH:4][c:5]2[n:6][cH:7][n:8][c:9]([O:10][c:11]3[cH:12][cH:13][c:14]([NH2:15])[cH:16][cH:17]3)[c:18]2[cH:19][c:20]1[O:21][CH3:22].[CH3:23][CH2:24][CH2:25][CH:26]([CH3:27])[C:28](=[O:29])[N:30]=[C:31]=[S:32]>>[CH3:1][O:2][c:3]1[cH:4][c:5]2[n:6][cH:7][n:8][c:9]([O:10][c:11]3[cH:12][cH:13][c:14]([NH:15][C:31]([NH:30][C:28]([CH:26]([CH2:25][CH2:24][CH3:23])[CH3:27])=[O:29])=[S:32])[cH:16][cH:17]3)[c:18]2[cH:19][c:20]1[O:21][CH3:22],[CH3:1][O:2][c:3]1[cH:4][c:5]2[n:6][cH:7][n:8][c:9]([O:10][c:11]3[cH:12][cH:13][c:14]([NH2:15])[cH:16][cH:17]3)[c:18]2[cH:19][c:20]1[O:21][CH3:22].[CH3:23][CH2:24][CH2:25][CH:26]([CH3:27])[C:28](=[O:29])[N:30]=[C:31]=[S:32]>>[CH3:1][O:2][c:3]1[cH:4][c:5]2[n:6][cH:7][n:8][c:9]([O:10][c:11]3[cH:12][cH:13][c:14]([NH:15][C:31]([NH:30][C:28]([CH:26]([CH2:25][CH2:24][CH3:23])[CH3:27])=[O:29])=[S:32])[cH:16][cH:17]3)[c:18]2[cH:19][c:20]1[O:21][CH3:22],nucleophilic_attack_to_iso(thio)cyanate,"[(15, 31), ([31, 32], 32), (32, 15.1), ([15.1, 15], 15), (32, [32, 31]), ([31, 30], 30), (30, 32.1), ([32.1, 32], 32)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)[Si](C)(C)[O:1][CH2:2][C@@H:3]1[C@@H:4]([O:5][C:6](=[O:7])[O:8][CH2:9][c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][C@H:17]([n:18]2[cH:19][c:20]3[cH:21][c:22](-[c:23]4[cH:33][cH:32][c:26]([CH2:27][CH2:28][CH2:29][CH2:30][CH3:31])[cH:25][cH:24]4)[o:34][c:35]3[n:36][c:37]2=[O:38])[O:39]1>>[OH:1][CH2:2][C@@H:3]1[C@@H:4]([O:5][C:6](=[O:7])[O:8][CH2:9][c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][C@H:17]([n:18]2[cH:19][c:20]3[cH:21][c:22](-[c:23]4[cH:24][cH:25][c:26]([CH2:27][CH2:28][CH2:29][CH2:30][CH3:31])[cH:32][cH:33]4)[o:34][c:35]3[n:36][c:37]2=[O:38])[O:39]1,CC(C)(C)[Si:101](C)(C)[O:1][CH2:2][C@@H:3]1[C@@H:4]([O:5][C:6](=[O:7])[O:8][CH2:9][c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][C@H:17]([n:18]2[cH:19][c:20]3[cH:21][c:22](-[c:23]4[cH:24][cH:25][c:26]([CH2:27][CH2:28][CH2:29][CH2:30][CH3:31])[cH:32][cH:33]4)[o:34][c:35]3[n:36][c:37]2=[O:38])[O:39]1.[F-:301]>>[OH:1][CH2:2][C@@H:3]1[C@@H:4]([O:5][C:6](=[O:7])[O:8][CH2:9][c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][C@H:17]([n:18]2[cH:19][c:20]3[cH:21][c:22](-[c:23]4[cH:24][cH:25][c:26]([CH2:27][CH2:28][CH2:29][CH2:30][CH3:31])[cH:32][cH:33]4)[o:34][c:35]3[n:36][c:37]2=[O:38])[O:39]1,SN2,"[(301, 101), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
